US08563617B2
1.3 Ethyl 1-(3,4-dichlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate
To 1-(3,4-dichlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-amine hydrochloride (1.95 g, 5.80 mmol) in pyridine 10 ml) the ethylchloroformate (1.00 g, 9.28 mmol) was added slowly under nitrogen. The mixture was stirred over night at RT. The solvent was reduced under vacuo and extracted with CH2Cl2 after addition of HCl (1N). The organic layer was washed with HCl (1N), NaHCO3 solution, and NaCl solution, then dried on MgSO4 and the solvent was removed. The product was obtained as an orange oil that precipitates after a few hours (2.10 g, 5.14 mmol, 89%).

reactant | 1-(3,4-dichlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-amine hydrochloride | 5.80 mmol, 1.95 g | Cl.ClC=1C=C(CC2C(CCC3=CC=C(C=C23)OC)N)C=CC1Cl
reactant | ethylchloroformate | 9.28 mmol, 1.00 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 1-(3,4-dichlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)OC)NC(OCC)=O)C=CC1Cl | C21H23Cl2NO3
